US07115412B2
Preparation of (R)-7-diethylaminocarbonylmethoxy-3-(2-phthalimidopropyl)indole
A residue 10.27 g containing (R)-7-hydroxy-3-(2-phthalimidopropyl)indole was dissolved in 200 ml of acetone, and 8.00 g of potassium carbonate was added thereto. After addition of N,N-diethylchloroacetamide 15.5 ml, the solution was heated to reflux in an oil bath of 80° C. For 3 hours. After cooling down 200 ml of water was added, and a deposited crystal was collected by filtration and washed with water, whereby 9.56 g of the title compound was obtained in the form of a pale yellowish white substance.

reactant | (R)-7-hydroxy-3-(2-phthalimidopropyl)indole | OC=1C=CC=C2C(=CNC12)C[C@@H](C)N1C(C=2C(C1=O)=CC=CC2)=O | C19H16N2O3
reactant | potassium carbonate | 8.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-diethylchloroacetamide | 15.5 ml | C(C)N(C(CCl)=O)CC | C6H12ClNO
reactant | water | 200 ml | O | H2O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | (R)-7-diethylaminocarbonylmethoxy-3-(2-phthalimidopropyl)indole | 9.56 g | C(C)N(C(=O)COC=1C=CC=C2C(=CNC12)C[C@@H](C)N1C(C=2C(C1=O)=CC=CC2)=O)CC | C25H27N3O4
